US08871753B2
Step B: tert-Butyl {3-[(2-morpholin-4-yl-5-nitrophenyl)ethynyl]phenyl}carbamate
A solution of 4-(2-bromo-4-nitrophenyl)morpholine (0.27 g, 0.95 mmol), tert-butyl (3-ethynylphenyl)carbamate, and bis(triphenylphosphine)palladium(II) chloride (67 mg, 95 μmol) in N,N-dimethylformamide (4.4 mL) was treated with N,N-diisopropylethylamine (0.21 mL, 1.2 mmol) and stirred at 80° C. for 16 h. The reaction mixture was diluted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate, filtered, and evaporated to give a crude residue. This material was purified by flash column chromatography to give the desired product (0.28 g, 70%) as a solid. LCMS for C23H26N3O5 (M+H)+: m/z=424.0.

reactant | 4-(2-bromo-4-nitrophenyl)morpholine | 0.95 mmol, 0.27 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C10H11BrN2O3
reactant | tert-butyl (3-ethynylphenyl)carbamate | C(#C)C=1C=C(C=CC1)NC(OC(C)(C)C)=O | C13H15NO2
reactant | N,N-diisopropylethylamine | 1.2 mmol, 0.21 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 4.4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 95 μmol, 67 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl {3-[(2-morpholin-4-yl-5-nitrophenyl)ethynyl]phenyl}carbamate | 0.28 g, 70% | N1(CCOCC1)C1=C(C=C(C=C1)[N+](=O)[O-])C#CC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C23H25N3O5
